US06342498B1
A solution of 1-(2-methoxyphenyl)piperazine (41.2 mmol) in 100 mL of acetonitrile and 12 mL of dimethylformamide was combined with N-(2-bromoethyl)phthalimide (43.3 mmol) and potassium carbonate (61.8 mmol). The mixture was heated to reflux for 8 hours. After cooling, the reaction mixture was quenched with water, extracted with dichloromethane. The organic phase was washed with brine, water, and dried over magnesium sulfate. Filtration and evaporation of the solvents gave a yellow oily residue that was purified by flash chromatography using hexanes and ethyl acetate (1:1) to give 1-(2-methoxyphenyl)-4-[(2-phthalimido)ethyl]piperazine (8.56 g, 57%).

reactant | 1-(2-methoxyphenyl)piperazine | 41.2 mmol | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | N-(2-bromoethyl)phthalimide | 43.3 mmol | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | potassium carbonate | 61.8 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
product | 1-(2-methoxyphenyl)-4-[(2-phthalimido)ethyl]piperazine | 8.56 g, 57% | COC1=C(C=CC=C1)N1CCN(CC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C21H23N3O3
